US06465688B2
4′-(Trifluoromethyl)-3′-chloro-2-biphenylcarboxylic Acid
60 g of 2-cyano-3′-chloro-4′-trifluoromethylbiphenyl were mixed with a solution of 38.7 g of potassium hydroxide in 325 ml of water and stirred at 160° C. under autogenous pressure in an autoclave for 24 hours. The autoclave was then cooled and the aqueous reaction mixture was filtered through Celite and subsequently extracted twice with 200 ml of toluene each time. The aqueous phase was brought to a pH of 6 to 7 with 10% strength hydrochloric acid. The precipitated solid was filtered off, washed with water, and dried. 30 g (47% of theory) of a bale beige solid of melting point 181 to 184° C. were obtained in a purity of 92.7% (HPLC, area per cent).

reactant | 2-cyano-3′-chloro-4′-trifluoromethylbiphenyl | 60 g | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)C(F)(F)F)Cl | C14H7ClF3N
reactant | potassium hydroxide | 38.7 g | [OH-].[K+]
reactant | water | 325 ml | O | H2O
product | 4′-(Trifluoromethyl)-3′-chloro-2-biphenylcarboxylic Acid | FC(C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)O)Cl)(F)F | C14H8ClF3O2
